US05883106
A. 4-[3-(Benzyloxy)-5-fluorophenyl]-4-hydroxymethyl-3,4,5,6-tetrahydro-2H-pyran
To a stirred solution of ethyl 4-[3-(benzyloxy)-5-fluorophenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate (1.54 g, 4.3 mmol) in ether (150 ml) was added lithium aluminium hydride (0.16 g, 4.3 mmol) in three portions. The resulting suspension was stirred at room temperature under a nitrogen atmosphere for 20 min. Excess of hydride was destroyed by adding saturated aqueous sodium sulfate. The mixture was diluted with 10% aqueous sulfuric acid (100 ml) and the organic layer was separated. The ethereal layer was washed with water (100 ml), saturated aqueous sodium bicarbonate (100 ml) and brine (100 ml), dried (magnesium sulfate) and concentrated to dryness to afford the titled compound as white solids (1.28 g, 94%).

reactant | ethyl 4-[3-(benzyloxy)-5-fluorophenyl]-3,4,5,6-tetrahydro-2H-pyran-4-carboxylate | 4.3 mmol, 1.54 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C1(CCOCC1)C(=O)OCC | C21H23FO4
reactant | lithium aluminium hydride | 4.3 mmol, 0.16 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 150 ml | CCOCC | C4H10O
product | 4-[3-(Benzyloxy)-5-fluorophenyl]-4-hydroxymethyl-3,4,5,6-tetrahydro-2H-pyran | 1.28 g, 94% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C1(CCOCC1)CO | C19H21FO3
